* ============================================================
* ngspice_compatible_macros.lib
* REPAIRED v2, 2026-05-22
*
* Surrogate macromodels for full-component connection tests.
* These are NOT official vendor models. They preserve pin-level
* connectivity and first-order non-ideal behavior relevant to
* the active synthetic-impedance loop: finite bandwidth, output
* swing limit, output current limit, and input/output loading.
*
* Critical v2 repair:
*   In SPICE, a behavioral current source written as Bx OUT 0 I=...
*   has positive current flowing from OUT to ground. Therefore an
*   output stage that must pull OUT upward when V(target)>V(OUT)
*   must use I=(V(OUT)-V(target))/ROUT, not the opposite sign.
*   The legacy v1 surrogate had the sign reversed and could force
*   the power follower into a false current-limit state.
* ============================================================

.func clip(x, lo, hi) { min(max(x, lo), hi) }

.model D5A_SCH D(IS=1e-8 N=1.05 RS=0.03 CJO=200p BV=60 IBV=1m TT=20n)
.model DGEN D(IS=1e-14 N=1.8 RS=0.2 CJO=3p TT=10n)

* ------------------------------------------------------------
* OPA548_NG_SURR
* Pin order: +IN -IN OUT VPOS VNEG ILIM
* Default params approximate: 1 MHz GBW, 10^5 dc gain,
* current-limited high-current output stage.
* ------------------------------------------------------------
.SUBCKT OPA548_NG_SURR INP INN OUT VPOS VNEG ILIM PARAMS: A0=1e5 GBW=1e6 ROUT=0.08 IOUT=3.0 VHEAD=2.0 RIN=1e9 CIN=4p
RINP INP 0 {RIN}
RINN INN 0 {RIN}
CINP INP 0 {CIN}
CINN INN 0 {CIN}
.param FP={GBW/A0}
* open-loop gain with dominant pole: NRAW=A0*(INP-INN), NDOM is filtered command
BRAW NRAW 0 V = {clip(A0*V(INP,INN), V(VNEG)-5, V(VPOS)+5)}
RDOM NRAW NDOM 1k
CDOM NDOM 0 {1/(2*3.141592653589793*1k*FP)}
RLEAKDOM NDOM 0 1e12
* Current source polarity: positive current OUT->0 sinks current. To raise OUT, current must be negative.
BOUT OUT 0 I = {clip((V(OUT)-clip(V(NDOM), V(VNEG)+VHEAD, V(VPOS)-VHEAD))/ROUT, -IOUT, IOUT)}
COUT OUT 0 30p
ROUTL OUT 0 100Meg
RILIM ILIM 0 100Meg
.ENDS OPA548_NG_SURR

* ------------------------------------------------------------
* OPA1656_NG_SURR
* Pin order: +IN -IN OUT VPOS VNEG
* Approximate: 53 MHz GBW, high dc gain, 100 mA output.
* ------------------------------------------------------------
.SUBCKT OPA1656_NG_SURR INP INN OUT VPOS VNEG PARAMS: A0=3.16e7 GBW=53e6 ROUT=12 IOUT=0.1 VHEAD=0.25 RIN=1e12 CIN=5p
RINP INP 0 {RIN}
RINN INN 0 {RIN}
CINP INP 0 {CIN}
CINN INN 0 {CIN}
.param FP={GBW/A0}
BRAW NRAW 0 V = {clip(A0*V(INP,INN), V(VNEG)-2, V(VPOS)+2)}
RDOM NRAW NDOM 1k
CDOM NDOM 0 {1/(2*3.141592653589793*1k*FP)}
RLEAKDOM NDOM 0 1e12
BOUT OUT 0 I = {clip((V(OUT)-clip(V(NDOM), V(VNEG)+VHEAD, V(VPOS)-VHEAD))/ROUT, -IOUT, IOUT)}
COUT OUT 0 8p
ROUTL OUT 0 100Meg
.ENDS OPA1656_NG_SURR

* ------------------------------------------------------------
* INA149_NG_SURR
* Pin order: +IN -IN OUT VPOS VNEG
* Approximate unity-gain difference amp: 500 kHz BW, finite CMRR,
* output swing and output resistance.
* ------------------------------------------------------------
.SUBCKT INA149_NG_SURR INP INN OUT VPOS VNEG PARAMS: GAIN=1.0 BW=500k CMRRDB=100 OFFSET=0 ROUT=50 VHEAD=1.5 RIN=1e9 CIN=3p
RINP INP 0 {RIN}
RINN INN 0 {RIN}
CINP INP 0 {CIN}
CINN INN 0 {CIN}
.param ACM={GAIN/pow(10,CMRRDB/20)}
BRAW NRAW 0 V = {OFFSET + GAIN*V(INP,INN) + ACM*(V(INP)+V(INN))/2}
RLP NRAW NLP 1k
CLP NLP 0 {1/(2*3.141592653589793*1k*BW)}
RLEAKLP NLP 0 1e12
BOUT OUT 0 I = {(V(OUT)-clip(V(NLP), V(VNEG)+VHEAD, V(VPOS)-VHEAD))/ROUT}
COUT OUT 0 12p
ROUTL OUT 0 100Meg
.ENDS INA149_NG_SURR

* ------------------------------------------------------------
* AD633_NG_SURR
* Pin order: X1 X2 Y1 Y2 VNEG Z W VPOS
* Function: W = (X1-X2)*(Y1-Y2)/10 + Z
* Approximate 1 MHz bandwidth, finite output swing.
* ------------------------------------------------------------
.SUBCKT AD633_NG_SURR X1 X2 Y1 Y2 VNEG Z W VPOS PARAMS: BW=1e6 ROUT=50 VHEAD=1.2 RIN=10Meg CIN=3p
RX1 X1 0 {RIN}
RX2 X2 0 {RIN}
RY1 Y1 0 {RIN}
RY2 Y2 0 {RIN}
RZ  Z  0 {RIN}
CX1 X1 0 {CIN}
CX2 X2 0 {CIN}
CY1 Y1 0 {CIN}
CY2 Y2 0 {CIN}
BRAW NRAW 0 V = {V(Z) + V(X1,X2)*V(Y1,Y2)/10}
RLP NRAW NLP 1k
CLP NLP 0 {1/(2*3.141592653589793*1k*BW)}
RLEAKLP NLP 0 1e12
BOUT W 0 I = {(V(W)-clip(V(NLP), V(VNEG)+VHEAD, V(VPOS)-VHEAD))/ROUT}
COUT W 0 10p
ROUTL W 0 100Meg
.ENDS AD633_NG_SURR

* ------------------------------------------------------------
* DAC_STM32G431_SURR
* Pin order: OUT VDD VSS
* Behavioral DAC command generator, not a digital MCU simulation.
* Outputs VDAC = 3.0*(Rtarget-1)/99.
* ------------------------------------------------------------
.SUBCKT DAC_STM32G431_SURR OUT VDD VSS PARAMS: R0=50.5 A1=49.5 FM1=100 PH1=0 A2=0 FM2=317 PH2=0 RMIN=1 RMAX=100 BW=20k
.param TWOPI=6.283185307179586
.func Rraw(t) { R0 + A1*sin(TWOPI*FM1*t+PH1) + A2*sin(TWOPI*FM2*t+PH2) }
.func Rt(t)   { min(max(Rraw(t), RMIN), RMAX) }
BRAW NDACRAW 0 V = { 3.0*(Rt(time)-1)/99 }
RDAC NDACRAW OUT 1k
CDAC OUT 0 {1/(2*3.141592653589793*1k*BW)}
ROUTL OUT 0 10Meg
.ENDS DAC_STM32G431_SURR
